US05346910
2,2,2-Trifluoro-N-2-propynylacetamide
To a stirring 0° C. solution of 15.0 g of propargylamine in 200 ml of methylene chloride is added, dropwise, a solution of 63.0 g of trifluoroacetic anhydride in 50 ml of methylene chloride. The reaction is stirred at room temperature for 1 hour followed by the addition of 100 ml of water. The mixture is washed with 150 ml of 1N hydrochloric acid and 150 ml of saturated sodium bicarbonate. The organic layer is dried, filtered and concentrated in vacuo. The residue is distilled under vacuum (0.2 mmHg) at 40° C. to give 32.1 g of the desired product as a colorless oil.

reactant | propargylamine | 15.0 g | C(C#C)N | C3H5N
reactant | trifluoroacetic anhydride | 63.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-N-2-propynylacetamide | 32.1 g | FC(C(=O)NCC#C)(F)F | C5H4F3NO
